US04036971
N-[2-(5-Methyl-4-imidazolylmethylthio)ethyl]-4-mercaptobenzamidine
N-[2-(5-Methyl-4-imidazolylmethylthio)ethyl]-4-hydroxybenzamidine and a slight excess of phosphorus pentasulphide were refluxed in pyridine for 45 minutes to give the title compound.

reactant | N-[2-(5-Methyl-4-imidazolylmethylthio)ethyl]-4-hydroxybenzamidine | CC1=C(N=CN1)CSCCNC(C1=CC=C(C=C1)O)=N | C14H18N4OS
reactant | phosphorus pentasulphide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-[2-(5-Methyl-4-imidazolylmethylthio)ethyl]-4-mercaptobenzamidine | CC1=C(N=CN1)CSCCNC(C1=CC=C(C=C1)S)=N | C14H18N4S2
